US08470859B2
5-chloro-2-imino-1-(3-morpholin-4-ylbenzyl)-1,2-dihydropyridine-3-carboxamide hydrochloride
According to the method of Example 179, 2-amino-5-chloronicotinamide was reacted with 1-(3-morpholin-4-ylphenyl)methanamine to give the title compound.

reactant | 2-amino-5-chloronicotinamide | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 1-(3-morpholin-4-ylphenyl)methanamine | N1(CCOCC1)C=1C=C(C=CC1)CN | C11H16N2O
product | 5-chloro-2-imino-1-(3-morpholin-4-ylbenzyl)-1,2-dihydropyridine-3-carboxamide hydrochloride | Cl.ClC=1C=C(C(N(C1)CC1=CC(=CC=C1)N1CCOCC1)=N)C(=O)N | InChI=1S/C17H19ClN4O2.ClH/c18-13-9-15(17(20)23)16(19)22(11-13)10-12-2-1-3-14(8-12)21-4-6-24-7-5-21;/h1-3,8-9,11,19H,4-7,10H2,(H2,20,23);1H
